US06610707B1
tert-Butyl (2S)-2-[(Z,5R)-1-amino-4,7-dioxo-5,9-diphenyl-3,8-dioxa-2,6-diaza-1-nonen-1-yl]-1-piperidinecarboxylate
The title compound was prepared by a similar method to Preparation 5 from tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate [see Preparation 4] and (2R)-2-{[(benzyloxy)carbonyl]amino}-2-phenylethanoic acid to afford tert-butyl (2S)-2-[(Z,5R)-1-amino-4,7-dioxo-5,9-diphenyl-3,8-dioxa-2,6-diaza-1-nonen-1-yl]-1-piperidinecarboxylate as an oil.

reactant | tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate | N\C(\[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=N/O | C11H21N3O3
reactant | (2R)-2-{[(benzyloxy)carbonyl]amino}-2-phenylethanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)O)C1=CC=CC=C1 | C16H15NO4
product | tert-butyl (2S)-2-[(Z,5R)-1-amino-4,7-dioxo-5,9-diphenyl-3,8-dioxa-2,6-diaza-1-nonen-1-yl]-1-piperidinecarboxylate | N\C(=N/OC([C@H](NC(OCC1=CC=CC=C1)=O)C1=CC=CC=C1)=O)\[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C27H34N4O6
